US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-2,5-dimethyl-3-furamide
In the same manner as in Example 58 and using 2,5-dimethyl-3-furoyl chloride (84.0 μL, 0.630 mmol), N,N-dimethylacetamide (5 mL) and N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (185 mg, 0.572 mmol) as starting materials, the title compound (150 mg, 56%) was obtained as a white solid.

reactant | 2,5-dimethyl-3-furoyl chloride | 0.630 mmol, 84.0 μL | CC=1OC(=CC1C(=O)Cl)C | C7H7ClO2
reactant | N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.572 mmol, 185 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-2,5-dimethyl-3-furamide | 150 mg, 56% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=C(OC(=C2)C)C)C)=N1 | C24H23N5O4
